US07935688B2
(1) Synthesis of (3-bromo-phenyl)-oxo-acetic Acid Methyl Ester
(3-Bromo-phenyl)-hydroxy-acetic acid (526.4 mg, 2.23 mmol) was dissolved in benzene (6 mL) and methanol (3 mL). Trimethylsilyldiazomethane (2 M solution in diethyl ether, 1.23 mL, 2.46 mmol) was added, and the mixture was stirred at room temperature for 10 minutes. The reaction solution was concentrated under reduced pressure, and then the residue was dissolved in dichloromethane (11.2 mL). Dess-Martin periodinane (1.95 g, 4.47 mmol) was added, and the mixture was stirred at room temperature for 10 minutes. A saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium thiosulfate solution were added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and brine and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=100:0 to 85:15) to give the title compound (502.2 mg, 95% in two steps).

reactant | (3-Bromo-phenyl)-hydroxy-acetic acid | 2.23 mmol, 526.4 mg | BrC=1C=C(C=CC1)C(C(=O)O)O | C8H7BrO3
reactant | Trimethylsilyldiazomethane | 2.46 mmol, 2 M, 1.23 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | Dess-Martin periodinane | 4.47 mmol, 1.95 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 3 mL | CO | CH4O
product | (3-bromo-phenyl)-oxo-acetic Acid Methyl Ester | 502.2 mg, 95% | COC(C(=O)C1=CC(=CC=C1)Br)=O | C9H7BrO3
